US04287338
A mixture of 1.00 grams of 2-amino-6-methyl-4-(4-ethyl-1-piperazinyl)pyridine-1-oxide, 1.15 grams of chlorosulfonic acid, and 2.50 grams of di-isopropylethylamine and 25 mls of chloroform is stirred overnight. The mixture is concentrated in vacuo. The residue is stirred with aqueous sodium bicarbonate, filtered, and washed with ether to give 2-amino-6-methyl-4-(4-ethyl-1-piperazinyl)-1-sulfooxypyridinium hydroxide, inner salt.

reactant | 2-amino-6-methyl-4-(4-ethyl-1-piperazinyl)pyridine-1-oxide | 1.00 grams | NC1=[N+](C(=CC(=C1)N1CCN(CC1)CC)C)[O-] | C12H20N4O
reactant | chlorosulfonic acid | 1.15 grams | ClS(=O)(=O)O | ClHO3S
reactant | di-isopropylethylamine | 2.50 grams | C(C)(C)N(CC)C(C)C | C8H19N
solvent | chloroform | 25 mls | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-6-methyl-4-(4-ethyl-1-piperazinyl)-1-sulfooxypyridinium hydroxide | [OH-].NC1=[N+](C(=CC(=C1)N1CCN(CC1)CC)C)OS(=O)(=O)O | InChI=1S/C12H20N4O4S.H2O/c1-3-14-4-6-15(7-5-14)11-8-10(2)16(12(13)9-11)20-21(17,18)19;/h8-9,13H,3-7H2,1-2H3,(H,17,18,19);1H2
